US04360464
21.9 Parts of 2-benzyloxy-1,3-dichloro-propane, 71.3 parts of tert.-butylamine and 50 parts of water were added to an autoclave and the mixture was heated at 90° C. for 48 hours with agitation. The reaction mixture was cooled and treated in the same manner as in Example 29, followed by distillation under reduced pressure. As a result, 17.5 parts of 3-benzyloxy-1-(tert.-butyl)azetidine boiling at 94°-96° C. under 2 mm Hg were obtained. The yield was 80%. The results of infra-red spectrum analysis and nuclear magnetic resonance analysis are as follows:

reactant | 2-benzyloxy-1,3-dichloro-propane | C(C1=CC=CC=C1)OC(CCl)CCl | C10H12Cl2O
reactant | tert.-butylamine | C(C)(C)(C)N | C4H11N
solvent | water | O | H2O
product | 3-benzyloxy-1-(tert.-butyl)azetidine | yield was 80% | C(C1=CC=CC=C1)OC1CN(C1)C(C)(C)C | C14H21NO
